US07125887B2
Step A: Ethylmalonic acid, dibenzyl ester
A solution of 2.0 g (15 mmol) of ethyl-malonic acid, 4.7 mL (31 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) and 3.9 mL (32 mmol) of benzyl bromide in 100 mL of benzene was refluxed for 22 hours. After cooling, the reaction was washed with 150 mL of H2O. After separating layers, the organic phase was dried over MgSO4 and concentrated. The residue was purified on a 40M Biotage column using 24:1 v/v hexane/EtOAc as the eluant to afford the title compound as a colorless oil: RF: 0.40 (9:1 v/v hexane/EtOAc); 1H-NMR (500 MHz) δ 0.97 (t, J=7.4, 3H), 1.99 (quint, J=7.4, 2H), 3.39 (t, J=7.4, 1H), 5.17 (s, 2H), 7.29–7.36 (m, 10H).

reactant | ethyl-malonic acid | 15 mmol, 2.0 g | C(C)C(C(=O)O)C(=O)O | C5H8O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 31 mmol, 4.7 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | benzyl bromide | 32 mmol, 3.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | Ethylmalonic acid, dibenzyl ester | C(C)C(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C19H20O4
